US05707794
5,6-Dichloro-3-methyl-2-(methylthio)benzimidazole (Int-K)
5,6-dichloro-2-mercaptobenzimidazole (8.76 g, 0.04 mol) in 50 ml 95% ethanol was treated with 10 ml of 45% aqueous potassium hydroxide to give a solution. Iodomethane (7 ml, 0.096 mol) was added. The reaction mixture was refluxed for two hours. Cooling overnight yielded precipitant, which was filtered, water-washed, and dried to yield 5.61 g, mp 115° C. The reaction filtrate was rotary evaporated and the residue reslurried in water. After filtration and drying, an additional 3.52 g was obtained, mp 110° C. NMR analysis indicated the presence of some 5,6-DiChloro-2-(methylthio)benzimidazole as an impurity.

reactant | 5,6-dichloro-2-mercaptobenzimidazole | 0.04 mol, 8.76 g | ClC1=CC2=C(N=C(N2)S)C=C1Cl | C7H4Cl2N2S
reactant | potassium hydroxide | 10 ml | [OH-].[K+]
reactant | Iodomethane | 0.096 mol, 7 ml | IC | CH3I
reactant | 5,6-DiChloro-2-(methylthio)benzimidazole | ClC1=CC2=C(N=C(N2)SC)C=C1Cl | C8H6Cl2N2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5,6-Dichloro-3-methyl-2-(methylthio)benzimidazole | ClC1=CC2=C(N=C(N2C)SC)C=C1Cl | C9H8Cl2N2S
